US08039649B2
reacting 1,2-methylenedioxybenzene and 2-methyl-3,3-diacetoxypropene with each other to produce 1-acetoxy-2-methyl-3-(3,4-methylenedioxyphenyl)-1-propene; and

reactant | 1,2-methylenedioxybenzene | C1OC2=C(C=CC=C2)O1 | C7H6O2
reactant | 2-methyl-3,3-diacetoxypropene | CC(=C)C(OC(C)=O)OC(C)=O | C8H12O4
product | 1-acetoxy-2-methyl-3-(3,4-methylenedioxyphenyl)-1-propene | C(C)(=O)OC=C(CC1=CC2=C(C=C1)OCO2)C | C13H14O4
